US05668157
Step 1: N'-Cyano-N-(2-dimethylamino-3-pyridyl)-O-phenylisourea
According to the procedure of Example 5, Step 3, 3-amino-2-dimethylaminopyridine (1.41 g, 0.0108 mol) was allowed to react with diphenylcyanocarbonimidate (2.45 g, 0.0108 mol) in ethylene glycol dimethyl ether (20 ml), under nitrogen for 18 hours. The reaction mixture was concentrated and the residue chromatographed on silica gel with mixtures of MeOH--CHCl3 containing from 0 to 5% MeOH. The product amounted to 3.23 g.

reactant | 3-amino-2-dimethylaminopyridine | 0.0108 mol, 1.41 g | NC=1C(=NC=CC1)N(C)C | C7H11N3
reactant | diphenylcyanocarbonimidate | 0.0108 mol, 2.45 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | ethylene glycol dimethyl ether | 20 ml | COCCOC | C4H10O2
product | N'-Cyano-N-(2-dimethylamino-3-pyridyl)-O-phenylisourea | C(#N)N=C(NC=1C(=NC=CC1)N(C)C)OC1=CC=CC=C1 | C15H15N5O
